US03997545
A mixture of 14.2 parts of methyl 2-acetamido-5-chlorothiophene-3-carboxylate, 360 parts by volume of methanol and 30 parts by volume of boron trifluoride-etherate is refluxed for 4 hours. After evaporation of the solvent the residue is treated in a manner similar to that used in Reference Example 19, whereby methyl 2-amino-5-chlorothiophene-3-carboxylate is obtained as crystals melting at 100°-102.5° C. This product is identical with that obtained in Reference Example 19.

reactant | methyl 2-acetamido-5-chlorothiophene-3-carboxylate | C(C)(=O)NC=1SC(=CC1C(=O)OC)Cl | C8H8ClNO3S
reactant | boron trifluoride-etherate | B(F)(F)F.CCOCC
solvent | methanol | CO | CH4O
product | methyl 2-amino-5-chlorothiophene-3-carboxylate | NC=1SC(=CC1C(=O)OC)Cl | C6H6ClNO2S
